US06399631B1
The [(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-carbamic acid tert-butyl ester (9.1 g, 25 mmol) was stirred for 1 hour in 1:1 concentrated aqueous HCl/ethanol to give a gray solid that was concentrated under reduced pressure. The residue was then extracted from saturated aqueous Na2CO3 with CH2Cl2, the combined organic layers were dried (Na2SO4) and then concentrated under reduced pressure to afford 2-amino-N-(9-ethyl-9H-carbazol-3-yl)-acetamide (6.1 g, 93%) as an off-white solid. MS m/z @ 268 (M+1).

reactant | [(9-ethyl-9H-carbazol-3-ylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 25 mmol, 9.1 g | C(C)(C)(C)OC(NCC(NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)=O)=O | C21H25N3O3
reactant | HCl ethanol | Cl.C(C)O
product | 2-amino-N-(9-ethyl-9H-carbazol-3-yl)-acetamide | 6.1 g, 93% | NCC(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C16H17N3O
